US07385061B2
E-1-[2-(4-Aminofurazan-3-yl)-benzimidazol-1-yl]-4-phenyl-but-3-en-2-one
A suspension of 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine (0.275 g, 1.37 mmol), potassium carbonate (0.472 g, 3.42 mmol) and 1-chloro-4-phenyl-but-3-en-2-one (0.297 g, 1.64 mmol) in DMF (5 ml) is stirred at room temperature for 16 hours. The reaction mixture is diluted with ethyl acetate, washed with water and dried over sodium sulphate. Filtration of the sodium sulphate, concentration of the filtrate under reduced pressure and chromatography of the residue on silicagel using hexane-ethyl acetate as eluent gives the title compound as a yellowish solid, m.p. 176-180° C.

reactant | 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine | 1.37 mmol, 0.275 g | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C9H7N5O
reactant | potassium carbonate | 3.42 mmol, 0.472 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-4-phenyl-but-3-en-2-one | 1.64 mmol, 0.297 g | ClCC(C=CC1=CC=CC=C1)=O | C10H9ClO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | E-1-[2-(4-Aminofurazan-3-yl)-benzimidazol-1-yl]-4-phenyl-but-3-en-2-one | NC=1C(=NON1)C1=NC2=C(N1CC(\C=C\C1=CC=CC=C1)=O)C=CC=C2 | C19H15N5O2
